US06518423B1
Methyl 1-benzylpiperidine-4-carboximidate dihydrochloride
A solution of 20 g of 1-benzylpiperidine-4-carbonitrile in a mixture of dry dichlolomethane (200 ml) with methanol (30 ml) was cooled and saturated with a hydrogen chloride gas while maintaining the reaction system at 0° C. or below. After allowing to stand for 4 hours at 0° C., the solvent was distilled off under reduced pressure at room temperature or below and the residue was diluted with ethyl acetate. The colorless crystals thus obtained were ground, filtered and washed with ethyl acetate to thereby give 23.6 g of the title compound.

reactant | 1-benzylpiperidine-4-carbonitrile | 20 g | C(C1=CC=CC=C1)N1CCC(CC1)C#N | C13H16N2
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | 30 ml | CO | CH4O
product | Methyl 1-benzylpiperidine-4-carboximidate dihydrochloride | 23.6 g | Cl.Cl.C(C1=CC=CC=C1)N1CCC(CC1)C(OC)=N | InChI=1S/C14H20N2O.2ClH/c1-17-14(15)13-7-9-16(10-8-13)11-12-5-3-2-4-6-12;;/h2-6,13,15H,7-11H2,1H3;2*1H
